US05344932
Ten grams of 3-iodo-4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidine are allowed to react with 2.19 g of 80% sodium hydride oil dispersion and 75 ml of dimethylformamide with the exclusion of moisture. After 30 minutes, 6.02 g of chloromethyl pivalate are added. This mixture is stirred for three hours poured into water, and neutralized with acetic acid. The solid is chromatographed on silica gel with acetone-dichloromethane to yield 3-iodo-4-hydroxy-l,5-bis-(pivaloyloxy)-6-methylpyrrolo[2,3-d]pyrimidine, m.p. 155° C. initially, followed by 3-iodo-4-hydroxy-5-pivaloyloxy-6-methylpyrrolo[2,3-d]pyrimidine, m.p. 236° C.

reactant | 3-iodo-4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidine | Ten grams | IN1C=NC=2C(=C1O)C=C(N2)C | C7H6IN3O
reactant | sodium hydride oil dispersion | 2.19 g | [H-].[Na+]
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
reactant | chloromethyl pivalate | 6.02 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-iodo-4-hydroxy-l,5-bis-(pivaloyloxy)-6-methylpyrrolo[2,3-d]pyrimidine | IN1CN(C=2C(=C1O)C(=C(N2)C)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O | C17H24IN3O5
